US03931232
1-Acetoxy-3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-6,9-dimethylxanthene
To a solution of 1.2 g. of 3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene in 20 ml. of dry pyridine is added 8.0 g. of acetic anhydride. The solution is stirred at 25° for 24 hours, then concentrated in vacuo. The residue is dissolved in water and extracted with hexane. The extract is washed with water until neutral, then dried and evaporated to give the title compound.

reactant | 3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene | CC(C(CCCCC)C)C=1C=C(C=2C(C=3CCC(CC3OC2C1)C)C)O | C24H36O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Acetoxy-3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-6,9-dimethylxanthene | C(C)(=O)OC1=CC(=CC=2OC=3CC(CCC3C(C12)C)C)C(C(CCCCC)C)C | C26H38O3
